US09416132B2
To a solution of 3-bromo-6-chloroimidazo[1,2-b]pyridazine (500 mg, 2.15 mmol) in a mixed solvent of dioxane (5 mL) and water (0.5 mL) was added (3-fluorophenyl)boronic acid (273 mg, 1.96 mmol), K2CO3 (811 mg, 5.88 mmol) and Pd(dppf)2Cl2 (79 mg, 0.098 mmol). The reaction mixture was stirred at 80° C. overnight under N2. TLC (PE:EA=5:1) showed the starting material was consumed. The mixture was cooled and concentrated. The residue was purified by column chromatography on silica gel (petroleum ether/EtOAc=20:1 to 1:1) to give 6-chloro-3-(3-fluorophenyl)imidazo[1,2-b]pyridazine (300 mg, 56%) as a yellow solid.

reactant | 3-bromo-6-chloroimidazo[1,2-b]pyridazine | 2.15 mmol, 500 mg | BrC1=CN=C2N1N=C(C=C2)Cl | C6H3BrClN3
reactant | dioxane | 5 mL | O1CCOCC1 | C4H8O2
reactant | (3-fluorophenyl)boronic acid | 1.96 mmol, 273 mg | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | K2CO3 | 5.88 mmol, 811 mg | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(dppf)2Cl2 | 0.098 mmol, 79 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | EA | CC(OCC)=O | C4H8O2
solvent | water | 0.5 mL | O | H2O
product | 6-chloro-3-(3-fluorophenyl)imidazo[1,2-b]pyridazine | 300 mg, 56% | ClC=1C=CC=2N(N1)C(=CN2)C2=CC(=CC=C2)F | C12H7ClFN3
